US05185370
2-[(4-Acetamidophenyl)methylene]-1,3-dicyclopropyl-1,3-propanedione
A mixture containing 1.6 g 4-acetamidobenzaldehyde, 1.5 g 1,3-dicyclopropyl-1,3-propanedione, 0.2 ml of piperidine and 0.4 ml of acetic acid in 50 ml of toluene was refluxed for 3 h by using a Dean-Stark separator. After standing over night at room temperature the crystals were filtered and washed with toluene. The product was recrystallized from ethanol. Yield 2.0 g, mp 166°-167° C.

reactant | 4-acetamidobenzaldehyde | 1.6 g | C(C)(=O)NC1=CC=C(C=O)C=C1 | C9H9NO2
reactant | 1,3-dicyclopropyl-1,3-propanedione | 1.5 g | C1(CC1)C(CC(=O)C1CC1)=O | C9H12O2
reactant | piperidine | 0.2 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.4 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[(4-Acetamidophenyl)methylene]-1,3-dicyclopropyl-1,3-propanedione | C(C)(=O)NC1=CC=C(C=C1)C=C(C(=O)C1CC1)C(=O)C1CC1 | C18H19NO3
